US07723538B2
4-[3-(2-Methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=425.1 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 2-methoxy-benzenesulfonyl chloride and yielded 4-[3-(2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(2-Methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid | COC1=C(C=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1 | C21H18N2O6S
reactant | 2-methoxy-benzenesulfonyl chloride | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 4-[3-(2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1)OC)=O)=O | C23H22N2O6S
